US07053089B2
(2-Chloro-5-methyl-pyrimidin-4-yl)-[1-(2-phenyl-ethanesulfonyl)-piperidin-4-ylmethyl]-amine
EXAMPLE 91 was prepared from C-[1-(2-phenyl-ethanesulfonyl)-piperidin-4-yl]-methylamine and 2,4-dichloro-5-methyl-pyrimidine: MS (m+1)=410.

reactant | C-[1-(2-phenyl-ethanesulfonyl)-piperidin-4-yl]-methylamine | C1(=CC=CC=C1)CCS(=O)(=O)N1CCC(CC1)CN | C14H22N2O2S
reactant | 2,4-dichloro-5-methyl-pyrimidine | ClC1=NC=C(C(=N1)Cl)C | C5H4Cl2N2
product | (2-Chloro-5-methyl-pyrimidin-4-yl)-[1-(2-phenyl-ethanesulfonyl)-piperidin-4-ylmethyl]-amine | ClC1=NC=C(C(=N1)NCC1CCN(CC1)S(=O)(=O)CCC1=CC=CC=C1)C | C19H25ClN4O2S
